US07777038B2
Diethyl 2-chloro-2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate (5.1 g) was added to a mixture of 20 ml of acetic acid and 15 ml of 6N hydrochloric acid, followed by heating under reflux for 9 hours. After cooling to room temperature, water was added to the reaction mixture, followed by cooling with ice. The precipitated solid was collected by filtration, washed with water and dried to thereby obtain 3.1 g of 2-chloro-3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propionic acid as a light yellow powder.

reactant | Diethyl 2-chloro-2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate | 5.1 g | ClC(C(=O)OCC)(C(=O)OCC)CC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C19H22ClNO6
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6N, 15 ml | Cl | ClH
solvent | water | O | H2O
product | 2-chloro-3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propionic acid | 3.1 g | ClC(C(=O)O)CC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C14H14ClNO4
